US08026257B2
5-Chloro-2-cyclopropyl-2H-indazole-7-carboxylic acid.
A microwave tube was charged 5-chloro-2-cyclopropyl-2H-indazole-7-carbonitrile (0.54 g, 2.5 mmol), methanol (8.0 mL) and a 4 N sodium hydroxide solution (5 mL, 20 mmol). The tube was sealed and heated at 110° C. for 3 h via microwave. After cooling to room temperature, the mixture was concentrated in vacuo to remove most of the methanol. The residue was poured into water/ethyl acetate. The product was extracted with water (2×) and the organics discarded. The aqueous layers were pooled together and acidified to pH 2.0 with 1 N hydrochloric acid. The resulting precipitate was filtered and dried in vacuo for several hours to afford 0.47 g (80%) as a white powder. 1H-NMR (CD3OD, 300 MHz) δ 8.40 (s, 1H), 7.94-7.95 (m, 2H), 4.08-4.14 (m, 1H), 1.37-1.42 (m, 2H), 1.21-1.23 (m, 2H). Mass spec.: 237.16 (MH)+.

reactant | 5-chloro-2-cyclopropyl-2H-indazole-7-carbonitrile | 2.5 mmol, 0.54 g | ClC1=CC2=CN(N=C2C(=C1)C#N)C1CC1 | C11H8ClN3
reactant | sodium hydroxide | 20 mmol, 4 N, 5 mL | [OH-].[Na+]
reactant | methanol | 8.0 mL | CO | CH4O
product | 5-Chloro-2-cyclopropyl-2H-indazole-7-carboxylic acid | ClC1=CC2=CN(N=C2C(=C1)C(=O)O)C1CC1 | C11H9ClN2O2
